US05482936
A suspension of sodium hydride (0.064 g, 2 mmole) in tetrahydrofuran (15 mL) was cooled in an ice bath. N,N-bis(phenylmethyl)-2-methyl-1H-imidazo[4,5-c]quinolin-4-amine (0.5 g, 1.32 mmole) was added and the reaction mixture was allowed to warm to room temperature for 20 minutes. Chloromethyl ethyl ether was added and the reaction mixture was stirred for 30 minutes. The reaction mixture was diluted with diethyl ether, washed twice with water, dried over magnesium sulfate and then concentrated under vacuum. The residue was purified by column chromatography (silica gel eluting with methylene chloride) to provide 0.43 g of N,N-bis(phenylmethyl)-1-ethoxymethyl-2-methyl-1H-imidazo[4,5-c]quinolin-4-amine.

reactant | sodium hydride | 2 mmole, 0.064 g | [H-].[Na+]
reactant | N,N-bis(phenylmethyl)-2-methyl-1H-imidazo[4,5-c]quinolin-4-amine | 1.32 mmole, 0.5 g | C1(=CC=CC=C1)CN(C1=NC=2C=CC=CC2C2=C1N=C(N2)C)CC2=CC=CC=C2 | C25H22N4
reactant | Chloromethyl ethyl ether | C(C)OCCl | C3H7ClO
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | N,N-bis(phenylmethyl)-1-ethoxymethyl-2-methyl-1H-imidazo[4,5-c]quinolin-4-amine | 0.43 g | C1(=CC=CC=C1)CN(C1=NC=2C=CC=CC2C2=C1N=C(N2COCC)C)CC2=CC=CC=C2 | C28H28N4O
